US07365095B2
Treatment of 2′-chloro-2-fluoro-6-methoxybiphenyl (17.0 g) with hydrogen bromide (33% in acetic acid, 60 mL) according to the procedure described for Example 69, Step 2 provided 7.5 g (57%) of 2′-chloro-6-fluorobiphenyl-2-ol as a colorless oil.

reactant | 2′-chloro-2-fluoro-6-methoxybiphenyl | 17.0 g | ClC1=C(C=CC=C1)C1=C(C=CC=C1OC)F | C13H10ClFO
solvent | hydrogen bromide | 60 mL | Br | BrH
product | 2′-chloro-6-fluorobiphenyl-2-ol | 7.5 g, 57% | ClC1=C(C=CC=C1)C=1C(=CC=CC1F)O | C12H8ClFO
